US06465497B2
Step A: Preparation of 2-propyl-4-morpholinyl-1-benzyloxybenzene
A solution of 3-propyl-4-benzyloxy-1-bromobenzene (1.0 g, 3.3 mmol), morpholine (0.5 g, 6.6 mmol), Pd(OAc)2 (0.036 g, 0.16 mmol), BINAP (0.082 g, 0.132 mmol) and cesium carbonate (1.50 g, 4.62 mmol) in toluene (134 mL) was degassed and purged with nitrogen. The reaction mixture was stirred at 100° C. overnight. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and 10% aqueous citric acid. The organic layer was washed with water and brine. The organic layer was dried over sodium sulfate, filtered and evaporated to an oil. The resulting oil was chromatographed on silica gel, using toluene with 5% ethyl acetate, to afford the title compound (1.03 g)

reactant | 3-propyl-4-benzyloxy-1-bromobenzene | 3.3 mmol, 1.0 g | C(CC)C=1C=C(C=CC1OCC1=CC=CC=C1)Br | C16H17BrO
reactant | morpholine | 6.6 mmol, 0.5 g | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 4.62 mmol, 1.50 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 134 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.16 mmol, 0.036 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.132 mmol, 0.082 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 2-propyl-4-morpholinyl-1-benzyloxybenzene | 1.03 g | C(CC)C1=C(C=CC(=C1)N1CCOCC1)OCC1=CC=CC=C1 | C20H25NO2
